US08957074B2
Following general N—C coupling procedure 1, 2-chloro-N,N-dimethyl-7-(tetrahydro-2H-pyran-3-yl)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (76 mg, 0.246 mmole) was combined with tert-butyl 7-(6-aminopyridin-3-yl)-6-oxo-1,7-diazaspiro[4.4]nonane-1-carboxylate (82 mg, 0.246 mmole) which gave tert-butyl 7-(6-(6-(dimethylcarbamoyl)-7-(tetrahydro-2H-pyran-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridin-3-yl)-6-oxo-1,7-diazaspiro[4.4]nonane-1-carboxylate (107 mg) in 72% yield. 1H NMR (400 MHz, CD2Cl2) δ 8.80 (s, 1H), 8.69-8.57 (m, 2H), 8.35-8.25 (m, 1H), 6.54 (s, 1H), 4.63-4.52 (m, 1H), 4.06-3.88 (m, 2H), 3.86-3.70 (m, 2H), 3.64-3.46 (m, 2H), 3.18 (S, 6H), 3.02-2.84 (m, 1H), 2.84-2.59 (m, 1H), 2.24-1.99 (m, 6H), 1.96-1.79 (m, 3H), 1.77-1.52 (m, 1H), 1.48 (s, 4H), 1.39 (s, 5H). HR-MS m/z 605.3210 (M+H)+

reactant | 2-chloro-N,N-dimethyl-7-(tetrahydro-2H-pyran-3-yl)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.246 mmole, 76 mg | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2COCCC2 | C14H17ClN4O2
reactant | tert-butyl 7-(6-aminopyridin-3-yl)-6-oxo-1,7-diazaspiro[4.4]nonane-1-carboxylate | 0.246 mmole, 82 mg | NC1=CC=C(C=N1)N1C(C2(CCCN2C(=O)OC(C)(C)C)CC1)=O | C17H24N4O3
product | tert-butyl 7-(6-(6-(dimethylcarbamoyl)-7-(tetrahydro-2H-pyran-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)pyridin-3-yl)-6-oxo-1,7-diazaspiro[4.4]nonane-1-carboxylate | 107 mg, 72% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=CC=C(C=N2)N2C(C3(CCCN3C(=O)OC(C)(C)C)CC2)=O)N1C1COCCC1)C | C31H40N8O5
